US09353107B2
Step-iii: N-(2-fluoro-5-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(2-fluoro-5-(3-(1-phenethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide (145 mg, 0.230 mmol) was hydrolyzed by lithium hydroxide (48 mg, 1.15 mmol) in THF/methanol/water (15/5/5 ml) to yield 41 mg (37.6% yield) of the titled compound after purification by preparative TLC(Silicagel-1000 micron) using 50% ethyl acetate in hexane as eluent. 1H NMR (CD3OD, 300 MHz): δ 8.44-8.40 (d, 1H), 8.108-8.101 (d, 1H), 7.83-7.74 (m, 2H), 7.58-7.50 (m, 2H), 7.40-7.10 (m, 5H), 4.46-4.42 (t, 2H), 3.20-3.16 (t, 2H), 3.06 (s, 3H). MS: m/z=476.5 (M+1), HPLC: 93.52% in method A.

reactant | N-(2-fluoro-5-(3-(1-phenethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide | 0.230 mmol, 145 mg | FC1=C(C=C(C=C1)C=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CCC2=CC=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2)NS(=O)(=O)C | C32H28FN5O4S2
reactant | lithium hydroxide | 1.15 mmol, 48 mg | [OH-].[Li+]
solvent | THF methanol water | 5 ml | C1CCOC1.CO.O
product | N-(2-fluoro-5-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide | 41 mg, 37.6% yield | FC1=C(C=C(C=C1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CCC2=CC=CC=C2)NS(=O)(=O)C | C25H22FN5O2S
